US06353006B1
To a solution of 2-n-propylaniline in MeOH (25 mL) was added a solution of NaHCO3 (5.0 g, 59.5 mmol) in H2O (25 mL). Iodine (8.4 g, 33.3 mmol) was added portionwise over 70 min. while maintaining the temp. at 10° C., then the mixture was allowed to stir at 10° C. for 30 min. The resulting mixture was diluted with H2O (30 mL) and extracted with EtOAc (4×40 mL). The combined organic layers were sequentially washed with a 5% Na2S2O3 solution (30 mL) and a saturated NaHCO3 solution (30 mL), dried (Na2SO4), and concentrated under reduced pressure to give 4-iodo-2-n-propylaniline (9.4 g, 98%): TLC (20% EtOAc/hex) Rf0.43. This material was used in the next step without further purification.

reactant | 2-n-propylaniline | C(CC)C1=C(N)C=CC=C1 | C9H13N
reactant | NaHCO3 | 59.5 mmol, 5.0 g | C(=O)(O)[O-].[Na+]
reactant | Iodine | 33.3 mmol, 8.4 g | II | I2
solvent | MeOH | 25 mL | CO | CH4O
solvent | H2O | 25 mL | O | H2O
solvent | H2O | 30 mL | O | H2O
product | 4-iodo-2-n-propylaniline | 9.4 g, 98% | IC1=CC(=C(N)C=C1)CCC | C9H12IN
